US07595312B2
2d diethyl 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate
3.2 mL (23.0 mmol) of triethylamine were added dropwise to a solution of 8.00 g (19.0 mmol) of 4-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid, 4.39 g (19.0 mmol) of 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one, 6.00 g (18.0 mmol) of TBTU and 2.75 g (18.0 mmol) of HOBT in 100 mL of THF and the mixture was stirred for 16 h at RT. The solid formed was filtered off, washed with diethyl ether and dried i. vac.

reactant | triethylamine | 23.0 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-3,3-bis-ethoxycarbonyl-butanoic acid | 19.0 mmol, 8.00 g | NC1=C(C=C(C=C1C(F)(F)F)CC(CC(=O)O)(C(=O)OCC)C(=O)OCC)Cl | C17H19ClF3NO6
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 19.0 mmol, 4.39 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
reactant | TBTU | 18.0 mmol, 6.00 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 18.0 mmol, 2.75 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | diethyl 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate | NC1=C(C=C(CC(C(=O)OCC)(C(=O)OCC)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=C1C(F)(F)F)Cl | C30H34ClF3N4O6
